US07897597B2
Ethoxyacetyl chloride (3.81 g, 31.1 mmol) was slowly added to a chilled solution of 6-benzyloxy-N4-(2-methylpropyl)quinoline-3,4-diamine (9.1 g, 28.3 mmol) in pyridine (60 mL). The reaction was allowed to warm to ambient temperature and then heated at reflux for three hours. The solvent was removed under reduced pressure, and the residue was dissolved in dichloromethane (200 mL). The resulting solution was washed with water (3×100 mL) and concentrated under reduced pressure. The concentrated solution was passed through a layer of silica gel (eluting with dichloromethane:methanol 95:5) and concentrated under reduced pressure to provide 3.6 g of 8-benzyloxy-2-ethoxymethyl-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinoline as an oil.

reactant | Ethoxyacetyl chloride | 31.1 mmol, 3.81 g | C(C)OCC(=O)Cl | C4H7ClO2
reactant | 6-benzyloxy-N4-(2-methylpropyl)quinoline-3,4-diamine | 28.3 mmol, 9.1 g | C(C1=CC=CC=C1)OC=1C=C2C(=C(C=NC2=CC1)N)NCC(C)C | C20H23N3O
solvent | pyridine | 60 mL | N1=CC=CC=C1 | C5H5N
product | 8-benzyloxy-2-ethoxymethyl-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinoline | 3.6 g | C(C1=CC=CC=C1)OC1=CC=2C3=C(C=NC2C=C1)N=C(N3CC(C)C)COCC | C24H27N3O2
